US08871187B2
2.15 ml (14.5 mmol) of tert-butyl bromoacetate are added dropwise to a solution of 1 g (15.3 mmol) of zinc 20 mesh in 20 ml of tetrahydrofuran, stirred for 15 min with a few drops of trimethylsilane chloride. After stirring for 15 minutes at ambient temperature, the temperature of the mixture is kept at 50° C. for 1 hour. After a return to ambient temperature, a solution containing 1.2 g (3.6 mmol) of 1-trityl-1H-imidazole-4-carbaldehyde in 10 ml of THF is added. The reaction medium is stirred for 6 h at ambient temperature, and then treated with a 1N aqueous solution of hydrochloric acid and extracted with ethyl acetate. The organic phase is washed successively with a saturated aqueous solution of sodium hydrogen carbonate and then with water. After drying over magnesium sulphate and filtration, the solvent is evaporated off. The residue obtained is precipitated from diisopropyl ether and filtered off. 1.4 g of tert-butyl 3-hydroxy-3-(1-trityl-1H-imidazol-4-yl)propanoate are obtained in the form of a white powder with a yield of 84%.

reactant | tert-butyl bromoacetate | 14.5 mmol, 2.15 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 1-trityl-1H-imidazole-4-carbaldehyde | 3.6 mmol, 1.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | trimethylsilane chloride | a few drops | [Cl-].C[SiH](C)C
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc | 15.3 mmol, 1 g | [Zn] | Zn
product | tert-butyl 3-hydroxy-3-(1-trityl-1H-imidazol-4-yl)propanoate | 1.4 g, yield of 84% | OC(CC(=O)OC(C)(C)C)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O3
